US07109229B2
(c) 3-[1-(2-Hydroxyethyl)-6-methoxy-1H-indol-3-yl]-4-(1-methyl-1H-indol-7-yl)-pyrrole-2,5-dione
To a solution of methyl {1-[2-(tert-butyldimethylsilyloxy)ethyl]-6-methoxy-1H-indol-3-yl}oxoacetate (10.4 g, 26.5 mmol) and 2-(1-methyl-1H-indol-7-yl)acetamide (5.0 g, 26.5 mmol) in DMF (250 mL) was added a 1.0 M solution of potassium tert-butoxide (79.5 mL, 79.5 mmol) at room temperature and under nitrogen. The reaction was stirred overnight. A solution of concentrated HCl (10 mL) was added and the mixture was stirred at room temperature for 1 h, then quenched with water (200 mL) and diluted with EtOAc (300 mL). The two layers were separated and the aqueous phase was extracted with EtOAc (3×200 mL). The organic phases were combined and washed with water (3×300 mL), brine (500 mL), dried (MgSO4), filtered and concentrated. Flash chromatography (SiO2, 30% hexanes/EtOAc) gave the title compound (9.5 g, 86%) as a red solid. 1H NMR (300 MHz, DMSO-d6) 11.10 (s, 1H), 8.08 (s, 1H), 7.65 (d, J=6.1 Hz, 1H), 7.22 (d, J=2.8 Hz, 1H), 7.00–6.83 (m, 3H), 6.49 (d, J=2.8 Hz, 1H), 6.03 (d, J=5.8 Hz, 1H), 5.94 (d, J=6.3 Hz, 1H), 4.88 (t, J=5.3 Hz, 1H), 4.22 (t, J=5.5 Hz, 2H), 3.70–3.55 (m, 8H).

reactant | methyl {1-[2-(tert-butyldimethylsilyloxy)ethyl]-6-methoxy-1H-indol-3-yl}oxoacetate | 26.5 mmol, 10.4 g | [Si](C)(C)(C(C)(C)C)OCCN1C=C(C2=CC=C(C=C12)OC)C(C(=O)OC)=O | C20H29NO5Si
reactant | 2-(1-methyl-1H-indol-7-yl)acetamide | 26.5 mmol, 5.0 g | CN1C=CC2=CC=CC(=C12)CC(=O)N | C11H12N2O
reactant | potassium tert-butoxide | 79.5 mmol, 79.5 mL | CC(C)([O-])C.[K+]
reactant | HCl | 10 mL | Cl | ClH
solvent | DMF | 250 mL | CN(C)C=O | C3H7NO
product | 3-[1-(2-Hydroxyethyl)-6-methoxy-1H-indol-3-yl]-4-(1-methyl-1H-indol-7-yl)-pyrrole-2,5-dione | 9.5 g, 86% | OCCN1C=C(C2=CC=C(C=C12)OC)C=1C(NC(C1C=1C=CC=C2C=CN(C12)C)=O)=O | C24H21N3O4
